Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hyperglycemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMHx HIV, DVT, and T2DM on
metformin presenting with hyperglycemia and weakness. Patient
reports a few weeks of nausea, polyuria, fatigue, and blurred
vision. She also reports a few episodes of non-bloody emesis 
that
she said happened in the setting of drinking a large volume of
water very quickly. Due to these new symptoms, she was seen by
her PCP who checked an A1c that was 10.8%. She was then started
on 500 mg metformin BID. She started this medication about a 
week
ago but decided to return to the ED for evaluation when her
symptoms persisted. She denied fevers, chills, runny nose, sore
throat, cough, CP, SOB, abdominal pain, diarrhea, constipation,
dysuria, or myalgias.

In the ED:

Initial vital signs were notable for: 97.4 ___ 16 96% RA

Exam notable for: Patient w/ dry mucous membranes, otherwise
benign

Labs were notable for:
-H/H 13.3/41.8, WBC 11.6, plt 312
-Na 140, K 4.4, HCO3 24, BUN 13, Cr 1.1
-Ca 9.7, Mg 2.1, Phos 4.3
-Trop neg x1
-Alk phos 144
-LFTs otherwise unremarkable
-UA bland other than 1000 glucose and 40 ketones
-VBG 7.40/45 > 7.42/45 > 7.42/46

Studies performed include: None

Patient was given:
___ 16:44IVFLR 1000 mL
___ 19:03SCInsulin 6 Units
___ 21:36IVFLR 1000 mL
___ 21:49SCInsulin Lispro 8 UNIT
___ 23:03SCInsulin 12 UNIT
___ 06:16SCInsulin 7 Units
___ 08:41PO/NGHydrochlorothiazide 25 mg
___ 08:41POAbacavir Sulfate 600 mg
___ 08:41PODolutegravir 50 mg
___ 08:41POLaMIVudine 300 mg
___ 09:01SCInsulin 5 Units
___ 10:31IVFLR 1000 mL
___ 12:51SCInsulin Lispro 10 UNIT
___ 13:11IVSodium Chloride 0.9% Flush 10 mL

Consults: ___ consulted who provided recs on insulin regimen
and recommended patient be seen by diabetes educator.

Vitals on transfer: 98.2 88 123/82 16 100% RA

Upon arrival to the floor, the patient is asymptomatic and 
hoping
to have dinner soon. 

REVIEW OF SYSTEMS:

Complete ROS obtained and is otherwise negative.

 
Past Medical History:
1. HIV- diagnosed ___. No prior OIs. She has been on a stable
regimen of Combivir and Sustiva since her diagnosis and
suppressed on it for some time.  Last CD4 count in ___ was 737.
She was previously on ACTG study but is no longer involved.
2. Abnormal Pap smears. Followed by GYN here, also has a history
of an ovarian mass that is being followed yearly.
3. Abnormal mammogram left breast ___. Biopsy revealed benign
fibroadenoma.  Repeat mammogram ___ normal.
4. Boils on buttocks and lower abdomen in ___- no recurrence
5. DVT, ___ in setting of newly started OCPs 
6. Systolic murmur, TTE ___ showed no vavular dysfunction
7. Vitamin D deficiency
 
Social History:
___
Family History:
Diabetes in both parents
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.6 133 / 84 92 97 RA
GENERAL: Pleasant F in NAD. Soft-spoken.
HEENT: NCAT, MMM
CARDIAC: RRR, no m/r/g
LUNGS: CTAB
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Soft, NT/ND, BS+
EXTREMITIES: WWP, no c/c/e
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AAOx3, grossly intact

DISCHARGE PHYSICAL EXAM
VITALS: ___ 0723 Temp: 98.4 PO BP: 123/84 HR: 86 RR: 18 O2
sat: 98% O2 delivery: Ra FSBG: 236 
GENERAL: Pleasant F in NAD sitting in bed during interaction
HEENT: NCAT, MMM
CARDIAC: RRR, no m/r/g
LUNGS: CTAB
ABDOMEN: Soft, NT/ND, BS
EXTREMITIES: WWP, no c/c/e
NEUROLOGIC: AAOx3, grossly intact
 
Pertinent Results:
ADMISSION LABS:
___ 01:51PM BLOOD WBC-11.6* RBC-5.79* Hgb-13.3 Hct-41.8 
MCV-72* MCH-23.0* MCHC-31.8* RDW-17.7* RDWSD-41.5 Plt ___
___ 01:51PM BLOOD Neuts-72.7* Lymphs-16.3* Monos-8.5 
Eos-1.1 Baso-0.8 Im ___ AbsNeut-8.46* AbsLymp-1.89 
AbsMono-0.99* AbsEos-0.13 AbsBaso-0.09*
___ 01:51PM BLOOD Glucose-461* UreaN-13 Creat-1.1 Na-140 
K-4.4 Cl-93* HCO3-24 AnGap-23*
___ 01:51PM BLOOD ALT-14 AST-25 AlkPhos-144* TotBili-0.2
___ 01:51PM BLOOD Albumin-4.2 Calcium-9.7 Phos-4.3 Mg-2.1
___ 01:51PM BLOOD cTropnT-<0.01
___ 02:02PM BLOOD ___ pO2-60* pCO2-45 pH-7.40 
calTCO2-29 Base XS-1 Comment-GREEN TOP

INTERVAL LABS:
___ 04:00PM BLOOD Glucose-294* UreaN-13 Creat-0.9 Na-142 
K-3.7 Cl-100 HCO3-27 AnGap-15
___ 06:20AM BLOOD Glucose-312* UreaN-11 Creat-0.9 Na-147 
K-4.0 Cl-105 HCO3-26 AnGap-16

MICROBIOLOGY:
___ 2:28 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    10,000-100,000 
CFU/mL.
___ 10:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

DISCHARGE LABS:
___ 04:52AM BLOOD WBC-6.6 RBC-4.77 Hgb-10.6* Hct-34.4 
MCV-72* MCH-22.2* MCHC-30.8* RDW-16.1* RDWSD-41.6 Plt ___
___ 04:52AM BLOOD Glucose-246* UreaN-10 Creat-0.8 Na-143 
K-3.7 Cl-106 HCO3-25 AnGap-12
 
Brief Hospital Course:
Patient Summary for Admission:
===============================
Ms. ___ is a ___ w/ PMHx HIV, DVT, and T2DM 
on metformin who presented with blood sugars elevated to 400 
without evidence of acidosis. There was no clear trigger 
identified for this marked hyperglycemia. Her insulin was 
titrated with the aid of the ___ diabetes team and once 
consistently under 300 patient felt safe to be discharged ___. 

ACUTE ISSUES:
=============
#Hyperglycemia
#T2DM: Prior to admission patient's A1c 10.8 suggesting likely 
elevated blood glucose for some time. However unclear trigger 
for acute elevation of blood glucose prior to admission. On 
presentation to the emergency room, BS >400 with anion gap of 
23. She notably did not have evidence of acidemia. She was 
initially fluid resuscitated with 3L of ___ Diabetes team 
consulted for titration of insulin regimen. Regarding trigger 
for hyperglycemia, an infectious work up including blood, urine 
and chest xray was pursued and negative. There were no new 
medications initiated prior to this admission. Initial 
leukocytosis was likely reactive. Prior to discharge patient 
received insulin teaching. She was discharged on 40 units of 
glargine with Humalog sliding scale (discharged with basaglar 
for insurance reasons). She was provided with strict return 
precautions for her blood sugar level. 

#Difficulty swallowing: Patient reports some discomfort with 
swallowing. Not clear this is dysphagia, but oral exam without 
ulceration or posterior plaques noted. Would be at increased 
risk of ___ esophagitis in setting of HIV. Outpatient ID 
provider notified of admission. Consider EGD as outpatient. 

CHRONIC ISSUES:
===============
#HIV: Continue home Triumeq (small risk of hyperglycemia with 
this medication, however will notify outpatient ID specialist of 
admission to facilitate further discussions).

#Hx DVT: Thought to be provoked from OCP use. Uses lovenox prior 
to airplane travel.

#HTN: HCTZ held while inatient in setting of normotension.

TRANSITIONAL ISSUES:
Pending labs at discharge: Blood cultures
[] Given ongoing titration of insulin, patient scheduled with 
the ___ team ##
[] Given ongoing hyperglycemia, she was discharged with the 
following red flag blood sugar parameters
- If your blood sugars is >450 and you feel abdominal pain, 
nausea/vomiting please call the above number.
- If your blood sugar is <100 or you are feeling shaking, 
sweating or light headed please call ___, take a glucose 
tablet and eat something with sugar. This value is too low. 
[] ___ held on discharge given stable blood pressure while 
inpatient. If patient hypertensive as outpatient would consider 
ACEi therapy in setting of diabetes diagnosis.
[] Patient reporting some dysphagia like symptoms, would 
consider outpatient EGD to rule out ___ esophagitis.
[] As a part of new Type 2 DM diagnosis will need outpatient 
optometry evaluation.
*of note for outpatient providers, transitioned for glargine 
inpatient to basaglar pens given insurance preference. 
Additionally she will require pens for insulin delivery due to 
poor eye sight.

Medication Changes:
- New Medications: Insulin (Basaglar and Humalog)
- Stopped, Held Medications: Hydrochlorothiazide, Metformin
- Changed Medications: None

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Glargine 40 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
2.  Multivitamins 1 TAB PO DAILY  
3.  Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY  
4. HELD- Hydrochlorothiazide 25 mg PO DAILY  This medication was 
held. Do not restart Hydrochlorothiazide until instructed to 
restart by your primary care provider
5. HELD- MetFORMIN (Glucophage) 500 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until instructed 
to restart by the ___ team

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Insulin Dependent Diabetes, poorly controlled
HIV

Secondary Diagnosis:
====================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

Thank you for choosing ___ as your site of care!

Why was I admitted?
- You were admitted to the hospital because your blood sugars 
were very elevated at home. 

What was done for me while I was in the hospital?
- We looked for the cause of your elevated blood sugars and 
there was no obvious signs of infection.
- You were started on insulin to manage your diabetes. You were 
also evaluated by our ___ Diabetes team to help control your 
sugars and teach you how to use your new insulin pens.

What should I do when I leave the hospital?
- Please continue all of your medications as directed. You will 
need to take your insulin and check your blood sugar at each 
meal and before bed. Please see below for warnings signs, if you 
notice your blood sugars above or below these values please call 
the ___ ___ to speak with the team there.
    - If your blood sugars is >450 and you feel abdominal pain, 
nausea/vomiting please call the above number.
    - If your blood sugar is <100 or you are feeling shaking, 
sweating or light headed please call ___, take a glucose 
tablet and eat something with sugar. This value is too low. 
- If you notice you are having abdominal pain, nausea, fevers, 
chills please return to the emergency department.

We wish you the best!
Your ___ treatment team
 
Followup Instructions:
___